US07179934B2
(4R,5R)-4,5-Dimethyl-3-oxo-heptanoic acid ethyl ester
To a 1 L round bottom flask equipped with a nitrogen inlet was charged 22 g (230 mmol) of magnesium chloride, 39 g (230 mmol) of potassium ethyl malonate and 200 mL of dimethylformamide. The contents of the flask were stirred at 50° C. for 1 hour and then cooled to 35° C. In a separate 500 mL, nitrogen inerted flask was added 200 mL of dimethylformamide, 28.6 g (177 mmol) of carbonyl diimidazole and 20 g of (2R,3R)-2,3-dimethyl-pentanoic acid was dripped in over 30 minutes. When the gas evolution had ceased, the contents of the 500 mL flask were added to the 1 L flask. The reaction was stirred for 2 days at 35° C. The reaction was cooled to room temperature and diluted with 800 mL of 1N HCl. The aqueous solution was extracted 3× with 1 L aliquots of MTBE. The organic extracts were combined and extracted with 200 mL of saturated NaHCO3. The organic layer was dried over MgSO4 and concentrated to give 31.74 g of the titled compound: 1H-NMR (CDCl3) 4.180–4.120 (m, 2H), 3.454 (s, 2H), 2.522–2.453 (q, 1H, J=7.018), 1.738–1.673 (m, 1H), 1.418–1.328 (m, 1H), 1.270–1.217 (m, 3H), 1.113–1.010 (m, 4H), 0.889–0.815 (m, 5H); MS (Ion Mode: APCl) m/z=201 [M+1]+.

reactant | magnesium chloride | 230 mmol, 22 g | [Cl-].[Mg+2].[Cl-]
reactant | potassium ethyl malonate | 230 mmol, 39 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | carbonyl diimidazole | 177 mmol, 28.6 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | (2R,3R)-2,3-dimethyl-pentanoic acid | 20 g | C[C@@H](C(=O)O)[C@@H](CC)C | C7H14O2
solvent | HCl | 1N, 800 mL | Cl | ClH
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | (4R,5R)-4,5-Dimethyl-3-oxo-heptanoic acid ethyl ester | 31.74 g | C(C)OC(CC([C@@H]([C@@H](CC)C)C)=O)=O | C11H20O3
